US08048909B2
3-({4-[(Methylamino)methyl]-2-phenyl-1H-pyrrol-1-yl}sulfonyl)benzonitrile hydrochloride
Using tert-butyl methyl[(5-phenyl-1H-pyrrol-3-yl)methyl]carbamate (250 mg), sodium hydride (60% in oil, 175 mg) and 3-cyanobenzenesulfonyl chloride (528 mg), a procedure as in Example 36 was performed to give the title compound as pale-purple crystals (yield 195 mg, 58%).

reactant | tert-butyl methyl[(5-phenyl-1H-pyrrol-3-yl)methyl]carbamate | 250 mg | CN(C(OC(C)(C)C)=O)CC1=CNC(=C1)C1=CC=CC=C1 | C17H22N2O2
reactant | sodium hydride | 175 mg | [H-].[Na+]
reactant | 3-cyanobenzenesulfonyl chloride | 528 mg | C(#N)C=1C=C(C=CC1)S(=O)(=O)Cl | C7H4ClNO2S
product | 3-({4-[(Methylamino)methyl]-2-phenyl-1H-pyrrol-1-yl}sulfonyl)benzonitrile hydrochloride | yield 195 mg, 58% | Cl.CNCC=1C=C(N(C1)S(=O)(=O)C=1C=C(C#N)C=CC1)C1=CC=CC=C1 | InChI=1S/C19H17N3O2S.ClH/c1-21-13-16-11-19(17-7-3-2-4-8-17)22(14-16)25(23,24)18-9-5-6-15(10-18)12-20;/h2-11,14,21H,13H2,1H3;1H
